US08372807B2
A mixture of (Z)—N′-(2-(1H-benzo[d][1,2,3]triazol-1-yl)-1-(naphthalen-1-yl)ethylidene)-4-methylbenzenesulfonohydrazide (1 g, 2.19 mmol) and SOCl2 (25 mL) was stirred at 60° C. for 18 h and then concentrated and purified by TLC (100% DCM) to afford 5-(1H-benzo[d][1,2,3]triazol-1-yl)-4-(naphthalen-1-yl)-1,2,3-thiadiazole as an amber solid.

reactant | (Z)—N′-(2-(1H-benzo[d][1,2,3]triazol-1-yl)-1-(naphthalen-1-yl)ethylidene)-4-methylbenzenesulfonohydrazide | 2.19 mmol, 1 g | N1(N=NC2=C1C=CC=C2)C\C(\C2=CC=CC1=CC=CC=C21)=N/NS(=O)(=O)C2=CC=C(C=C2)C | C25H21N5O2S
reactant | SOCl2 | 25 mL | O=S(Cl)Cl | Cl2OS
product | 5-(1H-benzo[d][1,2,3]triazol-1-yl)-4-(naphthalen-1-yl)-1,2,3-thiadiazole | N1(N=NC2=C1C=CC=C2)C2=C(N=NS2)C2=CC=CC1=CC=CC=C21 | C18H11N5S
